US06117885
A. 2-Cyclopropyl-3-[[2'-[2-(triphenylmethyl)-2H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]oxy]-4-quinolinecarboxylic acid
A mixture containing the title compound of Example 6, 2-cyclopropy-3-[[2'-(2H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]oxy]-4-quinolinecarboxylic acid, dilithium salt (906 mg, 2.02 mmol), triphenylmethyl chloride (590 mg, 2.11 mmol), and triethylamine (0.309 mL, 224 mg, 2.22 mmol) in acetone (10 mL) was stirred at room temperature in a stoppered flask for four days (reaction time beyond two days was unnecessary). The reaction mixture was next filtered and re-dissolved into 40 mL total volume with acetone. Yield was assumed to be 100% and appropriate aliquots were used in subsequent reactions.

reactant | 2-cyclopropy-3-[[2'-(2H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl]oxy]-4-quinolinecarboxylic acid | C1(CC1)C1=NC2=CC=CC=C2C(=C1OC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNN1)C(=O)O | C26H19N5O3
reactant | dilithium | 2.02 mmol, 906 mg | [Li][Li] | 2Li
reactant | triphenylmethyl chloride | 2.11 mmol, 590 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 2.22 mmol, 0.309 mL, 224 mg | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-Cyclopropyl-3-[[2'-[2-(triphenylmethyl)-2H-tetrazol-5-yl][1,1'-biphenyl]-4-yl]oxy]-4-quinolinecarboxylic acid | C1(CC1)C1=NC2=CC=CC=C2C(=C1OC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C45H33N5O3
